### PR TITLE
feat: getLsb_sshiftRight

### PR DESCRIPTION
**Pull request by bollu**
In the course of the development, I grabbed facts about right shifting over integers [from `mathlib4`](https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/Data/Int/Bitwise.lean).

The core proof strategy is to perform a case analysis of the msb:
- If `msb = false`, then `sshiftRight = ushiftRight`.
- If `msb = true`. then `x >>>s  i = ~~~(~~~(x >>>u i))`. The double negation introduces the high `1` bits that one expects of the arithmetic shift.

### CODE REVIEW

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 1]
```diff
@@ -0,0 +1,48 @@
+/-
+Copyright (c) 2023 Siddharth Bhat. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Siddharth Bhat, Jeremy Avigad
+-- https://github.com/leanprover-community/mathlib4/blob/12b9e3064e35636d35f0c349bf2be29fb9b75bf2/Mathlib/Data/Int/Bitwise.lean#L490-L490
```
Comment (bollu) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:5]: How precisely should I tag the fact that these were taken from mathlib and adapted here?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -629,6 +633,111 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+    rcases hmsb : x.msb with rfl | rfl <;> try rfl
+    exfalso
+    have hcontra := msb_eq_true_iff_large (x := x).mp hmsb
+    omega
+
+/-- Equation theorem for 'Int.sub' when both arguments are 'negSucc' -/
+theorem Int.toNat_sub_toNat_eq_negSucc_ofLt {n m : Nat} (hlt : n < m) :
+  (n : Int) - (m : Int) = (Int.negSucc (m - 1 - n)) := by
+  rw [Int.negSucc_eq] -- TODO: consider adding this to omega cleanup set.
+  omega
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:678]: I wonder what the canonical way to achieve this is, I was forced to write a local theorem to make progess in massaging arithmetic.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -629,6 +633,111 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+
+/-- Equation theorem for 'Int.mod' -/
+private theorem Int.mod_negSucc_eq (m : Nat) (n : Int) :
+  (Int.negSucc m) % n = Int.subNatNat (Int.natAbs n) (Nat.succ (m % Int.natAbs n)) := rfl
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:682]: I was surprised that I needed to write such a theorem, I think I'm missing either the requisite lemma, or a tactic incantation to perform this unfolding for me?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -629,6 +633,111 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+
+theorem sshiftRight_eq {x : BitVec n} {i : Nat} :
+    x.sshiftRight i = BitVec.ofInt n (x.toInt >>> i) := by
+  apply BitVec.eq_of_toInt_eq
+  simp [BitVec.sshiftRight]
+
+/-- The MSB of a bitvector is `true` iff its value interpreted as a natural number in 2s complement
+  is larger than 2^(half the bitwidth). -/
+theorem msb_eq_true_iff_large {x : BitVec w}
+    : x.msb = true ↔ 2 * x.toNat ≥ 2^w  := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:646]:
```suggestion
theorem msb_eq_true_iff_large {x : BitVec w} :
    x.msb = true ↔ 2 * x.toNat ≥ 2^w  := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -629,6 +633,111 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+  · intro h
+    rw [BitVec.msb_eq_decide]
+    simp
+    omega
+
+/-- The MSB of a bitvector is `false` iff its value is smaller than 2^(half the bitwidth).
+  This is the contrapositive of `BitVec.msb_eq_true_iff_large`.
+  TODO: this can be massively cleaned up via `contrapose`, but unfortunately this is in mathli  -/
+theorem msb_eq_false_iff_small {x : BitVec w}
+    : x.msb = false ↔ 2 * x.toNat < 2^w  := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:663]:
```suggestion
theorem msb_eq_false_iff_small {x : BitVec w} :
    x.msb = false ↔ 2 * x.toNat < 2^w  := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -629,6 +633,111 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
+  getLsb (x.sshiftRight s) i =  (!decide (w ≤ i) && if s + i < w then x.getLsb (s + i) else x.msb) := by
+  rcases hmsb:x.msb with rfl | rfl
+  · simp [sshiftRight_eq_of_msb_false hmsb]
+    by_cases hi : i ≥ w <;> simp [hi]
+    · apply getLsb_ge
+      omega
+    · intros hlsb
+      apply BitVec.lt_of_getLsb _ _ hlsb
+  · by_cases hi:(i ≥ w)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:742]:
```suggestion
  · by_cases hi : i ≥ w
```

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 7]
```diff
@@ -0,0 +1,48 @@
...
+namespace Int
+
+theorem shiftRight_eq (n : Int) (s : Nat) : n >>> s = Int.shiftRight n s := rfl
+@[simp]
+theorem shiftRight_ofNat (n s : Nat) : (n : Int) >>> s = Int.ofNat (n >>> s) := rfl
+theorem natCast_shiftRight (n s : Nat) : ((↑n) : Int) >>> s = n >>> s := rfl
+
+@[simp]
+theorem shiftRight_negSucc (m : Nat) (n : Nat) :
+  -[m+1] >>> n = -[m >>>n +1] := rfl
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:20]:
```suggestion
    -[m+1] >>> n = -[m >>>n +1] := rfl
```

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 8]
```diff
@@ -0,0 +1,48 @@
...
+
+namespace Int
+
+theorem shiftRight_eq (n : Int) (s : Nat) : n >>> s = Int.shiftRight n s := rfl
+@[simp]
+theorem shiftRight_ofNat (n s : Nat) : (n : Int) >>> s = Int.ofNat (n >>> s) := rfl
+theorem natCast_shiftRight (n s : Nat) : ((↑n) : Int) >>> s = n >>> s := rfl
+
+@[simp]
+theorem shiftRight_negSucc (m : Nat) (n : Nat) :
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:19]:
```suggestion
theorem shiftRight_negSucc (m n : Nat) :
```

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 9]
```diff
@@ -0,0 +1,48 @@
...
+
+theorem Int.shiftRight_shiftRight (i : Int) (m n : Nat) :
+    i >>> m >>> n = i >>> (m + n) := by
+  cases i
+  case ofNat i =>
+    simp [natCast_shiftRight, Nat.shiftRight_add]
+  case negSucc i =>
+    simp [Int.shiftRight_negSucc, Nat.shiftRight_add]
+
+theorem shiftRight_eq_div_pow (m : Int) (n : Nat) : m >>> n = m / ((((2 : Nat) ^ n) : Nat) : Int) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:30]:
```suggestion
theorem shiftRight_eq_div_pow (m : Int) (n : Nat) :
    m >>> n = m / ((((2 : Nat) ^ n) : Nat) : Int) := by
```

**Review by tobiasgrosser — COMMENTED** [review]
Some style comments.

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 10]
```diff
@@ -0,0 +1,49 @@
...
+  rcases m
+  case ofNat m =>
+    simp only [Int.ofNat_eq_coe, shiftRight_eq, Int.shiftRight, Nat.shiftRight_eq_div_pow,
+      ofNat_ediv, natCast_pow, Nat.cast_ofNat_Int]
+  case negSucc m =>
+    rw [Int.shiftRight_negSucc]
+    rw [negSucc_ediv]
+    rw [Nat.shiftRight_eq_div_pow]
+    . norm_cast
+    · norm_cast
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:41]:
```suggestion
    · norm_cast
    · norm_cast
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -629,6 +633,119 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+  constructor
+  · intros h
+    by_cases hx : (2 * x.toNat ≥ 2^w) <;> try omega
+    exfalso
+    simp_all [msb_eq_true_iff_large (x := x).mpr (by omega)]
+  · intros h
+    rcases hmsb : x.msb with rfl | rfl <;> try rfl
+    exfalso
+    have hcontra := msb_eq_true_iff_large (x := x).mp hmsb
+    omega
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:673]: Is this not a straightforward corollary of `msb_eq_true_iff_large`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -629,6 +633,119 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+
+theorem sshiftRight_eq {x : BitVec n} {i : Nat} :
+    x.sshiftRight i = BitVec.ofInt n (x.toInt >>> i) := by
+  apply BitVec.eq_of_toInt_eq
+  simp [BitVec.sshiftRight]
+
+/-- The MSB of a bitvector is `true` iff its value interpreted as a natural number in 2s complement
+  is larger than 2^(half the bitwidth). -/
+theorem msb_eq_true_iff_large {x : BitVec w} :
+    x.msb = true ↔ 2 * x.toNat ≥ 2^w  := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:646]: I would prefer a more "mechanical" name, like `msb_eq_true_iff_toNat_ge`. It's not immediately clear what "large" or "small" means in this context (without looking at the theorem statement)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -629,6 +633,119 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+    have hxbound' : ¬ (2 * x.toNat < 2 ^ (w + 1)) := by omega
+    simp only [hxbound', ↓reduceIte, toNat_ofInt, toNat_not, toNat_ushiftRight]
+    rw [Int.toNat_sub_toNat_eq_negSucc_ofLt (by omega)]
+    rw [Int.shiftRight_negSucc]
+    rw [Int.mod_negSucc_eq]
+    simp only [Int.natAbs_ofNat, Nat.succ_eq_add_one]
+    rw [Int.subNatNat_of_le]
+    simp only [Int.toNat_ofNat]
+    rw [Nat.mod_eq_of_lt]
+    omega
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:723]:
```suggestion
    rw [Nat.mod_eq_of_lt (by omega)]
```
Currenlty, it's not super clear `omega` is closing a subgoal

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -629,6 +633,119 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+/-- If the msb is `true`, the arithmetic shift right equals negating, then logical shifting right, then negating again.
+  The double negation preserves the lower bits that have been shifted,
+  and the outer negation ensures that the high bits are '1'. -/
+theorem sshiftRight_eq_of_msb_true {x : BitVec w} {s : Nat} (h : x.msb = true) :
+    (x.sshiftRight s) = ~~~((~~~x) >>> s) := by
+  rcases w with rfl | w
+  · apply BitVec.eq_of_toNat_eq
+    simp
+  · apply BitVec.eq_of_toNat_eq
+    rw [BitVec.sshiftRight_eq]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:711]:
```suggestion
  apply BitVec.eq_of_toNat_eq
  rcases w with rfl | w
  · simp
  · rw [BitVec.sshiftRight_eq]
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 12 above)
Comment (semorrison) [reply src/Init/Data/BitVec/Lemmas.lean:652]: `msb_eq_true_iff_two_mul_ge`

File: src/Init/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -629,6 +634,98 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
   unfold getLsb ; simp
 
+/-! ### sshiftRight -/
+
+theorem sshiftRight_eq {x : BitVec n} {i : Nat} :
+    x.sshiftRight i = BitVec.ofInt n (x.toInt >>> i) := by
+  apply BitVec.eq_of_toInt_eq
+  simp [BitVec.sshiftRight]
+
+/-- The MSB of a bitvector is `false` iff its value is smaller than 2^(half the bitwidth). -/
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:644]:
```suggestion
/-- The MSB of a bitvector is `false` iff its value is smaller than 2^(bitwidth - 1). -/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -629,6 +634,98 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+    x.msb = false ↔ 2 * x.toNat < 2^w  := by
+  cases w <;> simp [Nat.pow_succ, Nat.mul_comm _ 2, msb_eq_decide]
+
+/-- The MSB of a bitvector is `true` iff its value interpreted as a natural number in 2s complement
+  is larger than 2^(half the bitwidth). -/
+theorem msb_eq_true_iff_large {x : BitVec w} :
+    x.msb = true ↔ 2 * x.toNat ≥ 2^w  := by
+  simp [show x.msb = true ↔ ¬(x.msb = false) by simp, msb_eq_false_iff_small]
+
+/-- Equation theorem for 'Int.sub' when both arguments are 'negSucc' -/
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:655]: Comment seems wrong?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -629,6 +634,98 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+theorem Int.toNat_sub_toNat_eq_negSucc_ofLt {n m : Nat} (hlt : n < m) :
+  (n : Int) - (m : Int) = (Int.negSucc (m - 1 - n)) := by
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:657]: I am very skeptical of introducing `Int.negSucc` into the proof at all. Can you explain why? Even better, can you avoid it?

Comment (semorrison) [reply src/Init/Data/BitVec/Lemmas.lean:657]: Also, these lemmas should be further down, immediately before the theorem that uses them.

Comment (semorrison) [reply src/Init/Data/BitVec/Lemmas.lean:657]: e.g. I would try to keep negSucc out of it, but wrap the fact critical fact `Int.shiftRight_negSucc` into a `Int.shiftRight_sub_of_lt`.

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:657]: @semorrison that's fair enough, I'm happy to refactor it. 

when I write `Int.shiftRight_sub_of_lt` in `Init/Data/Int/Bitwise.lean`, I imagine I would still need the (private) theorem `Int.toNat_sub_toNat_eq_negSucc_ofLt `. Is there a different way to arrive at the same result that I'm missing? If not, I'd prefer it lives somewhere that helps the next person who stumbles upon the same need.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 12 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: renamed accordingly.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 13 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:703]: @alexkeizer Note that the proof that `Nat.mod_eq_of_lt` is correct is the *larger* piece below:

```lean
    · rw [Nat.shiftRight_eq_div_pow]
      suffices (2 ^ (w + 1) - 1 - x.toNat) / 2 ^ s < 2 ^ (w + 1) - 1 by omega
      apply Nat.lt_of_le_of_lt (Nat.div_le_self _ _) (by omega)
```

--- 

I tried to clean the implementation by using a more structured proof style

```lean
    rw [Nat.mod_eq_of_lt]
    · omega
    · rw [Nat.shiftRight_eq_div_pow]
      suffices (2 ^ (w + 1) - 1 - x.toNat) / 2 ^ s < 2 ^ (w + 1) - 1 by omega
      apply Nat.lt_of_le_of_lt (Nat.div_le_self _ _) (by omega)
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 11 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Resolved, since you cleaned this up!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 17 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: @semorrison actually, on second thought, I prefer the current implementation: The lemma name `Int.shiftRight_sub_of_lt` does not convey the full extent of the theorem statement, doesn't it? The equivalent `sshiftRight` theorem would be: 

```lean
diff --git a/src/Init/Data/Int/Bitwise/Lemmas.lean b/src/Init/Data/Int/Bitwise/Lemmas.lean
index c4b29d23ce..01ade45c2e 100644
--- a/src/Init/Data/Int/Bitwise/Lemmas.lean
+++ b/src/Init/Data/Int/Bitwise/Lemmas.lean
@@ -19,7 +19,21 @@ theorem natCast_shiftRight (n s : Nat) : ((↑n) : Int) >>> s = n >>> s := rfl
 theorem shiftRight_negSucc (m n : Nat) :
     -[m+1] >>> n = -[m >>>n +1] := rfl

+/-- Equation theorem for 'Int.sub' when the arguments are `.ofNat` and
+  the result is known to be negative. -/
+private theorem toNat_sub_toNat_eq_negSucc_ofLt {n m : Nat} (hlt : n < m) :
+  (n : Int) - (m : Int) = (Int.negSucc (m - 1 - n)) := by
+  rw [Int.negSucc_eq] -- TODO: consider adding this to omega cleanup set.
+  omega
+
+/-- shiftRight of a subtraction is evaluated when
+  the result of the subtraction is negative. -/
+theorem toNat_sub_toNat_shiftRight_eq_ofLt {m n i: Nat} (h : m < n) :
+  ((m : Int) - (n : Int)) >>> i = -[((n - 1 - m) >>> i) +1] := by
+    rw [toNat_sub_toNat_eq_negSucc_ofLt (by omega)]
+    rw [shiftRight_negSucc]
```

but this theorem seems *far too specialized* for my taste --- I much prefer the status quo, where the proof factors as two steps: first evaluate the subtraction, then evaluate the shift, knowing that the subtraction was a negative number. 

Maybe I misunderstood the refactor you were suggesting?

**Comment by bollu** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean (hunk 17 above)
Comment (semorrison) [reply src/Init/Data/BitVec/Lemmas.lean]: Okay, well, I haven't tried to understand the rest of your proof yet so I may be wrong here. I had in mind a theorem that didn't even have an `Int.negSucc` on the RHS. That seems really smelly --- `Int.negSucc` is necessary when setting up the basics, but it is an implementation detail and should never appear in arithmetic lemmas about `Int`.

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Hopefully, here's a diff that's more tasteful:

```diff
 /-- If the msb is `true`, the arithmetic shift right equals negating, then logical shifting right, then negating again.
   The double negation preserves the lower bits that have been shifted,
   and the outer negation ensures that the high bits are '1'. -/
@@ -693,16 +694,17 @@ theorem sshiftRight_eq_of_msb_true {x : BitVec w} {s : Nat} (h : x.msb = true) :
     have hxbound : (2 * x.toNat ≥ 2 ^ (w + 1)) := BitVec.msb_eq_true_iff_two_mul_ge.mp h
     have hxbound' : ¬ (2 * x.toNat < 2 ^ (w + 1)) := by omega
     simp only [hxbound', ↓reduceIte, toNat_ofInt, toNat_not, toNat_ushiftRight]
-    rw [Int.toNat_sub_toNat_eq_negSucc_ofLt (by omega)]
-    rw [Int.shiftRight_negSucc]
+    rw [← Int.subNatNat_eq_coe]
+    rw [Int.subNatNat_of_lt (by omega)]
+    simp
     rw [Int.mod_negSucc_eq]
-    simp only [Int.natAbs_ofNat, Nat.succ_eq_add_one]
+    simp [Int.natAbs_ofNat, Nat.succ_eq_add_one]
     rw [Int.subNatNat_of_le (by omega)]
     simp only [Int.toNat_ofNat]
     rw [Nat.mod_eq_of_lt]
-    · omega
+    · rw [Nat.sub_right_comm]
+      omega
     · rw [Nat.shiftRight_eq_div_pow]
-      suffices (2 ^ (w + 1) - 1 - x.toNat) / 2 ^ s < 2 ^ (w + 1) - 1 by omega
       apply Nat.lt_of_le_of_lt (Nat.div_le_self _ _) (by omega)
```

I switched to using `subNatNat` to rewrite the statement as I wanted. It feels obscure to me, but I guess that's just knowing the API :)

Comment (semorrison) [reply src/Init/Data/BitVec/Lemmas.lean]: Does look better to me. Sorry this was only a superficial comment. I'll try to look closely later tonight.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 18]
```diff
@@ -629,6 +634,89 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+  apply BitVec.eq_of_toInt_eq
+  simp [BitVec.sshiftRight]
+
+/-- The MSB of a bitvector is `false` iff its value is smaller than 2^(bitwidth - 1). -/
+theorem msb_eq_false_iff_two_mul_lt {x : BitVec w} :
+    x.msb = false ↔ 2 * x.toNat < 2^w  := by
+  cases w <;> simp [Nat.pow_succ, Nat.mul_comm _ 2, msb_eq_decide]
+
+/-- The MSB of a bitvector is `true` iff its value interpreted as a natural number in 2s complement
+  is larger than 2^(half the bitwidth). -/
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:650]:
```suggestion
  is larger than 2^(bitwidth - 1). -/
```

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 19]
```diff
@@ -0,0 +1,59 @@
...
+-/
+prelude
+import Init.Data.Nat.Bitwise.Lemmas
+import Init.Data.Int.Bitwise
+
+namespace Int
+
+theorem shiftRight_eq (n : Int) (s : Nat) : n >>> s = Int.shiftRight n s := rfl
+@[simp]
+theorem shiftRight_ofNat (n s : Nat) : (n : Int) >>> s = Int.ofNat (n >>> s) := rfl
```
Comment (semorrison) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:14]: The LHS is identical to the LHS of `natCast_shiftRight`, and the RHS unnecessarily introduces non-simp-normal-form. Please delete and use `natCast_shiftRight` instead.

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 20]
```diff
@@ -0,0 +1,59 @@
...
+theorem natCast_shiftRight (n s : Nat) : ((↑n) : Int) >>> s = n >>> s := rfl
+
+@[simp]
+theorem shiftRight_negSucc (m n : Nat) :
+    -[m+1] >>> n = -[m >>>n +1] := rfl
```
Comment (semorrison) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:19]: `>>>` is an infix operator, so this should be named `negSucc_shiftRight`.

But my general object remains, I'd really prefer to mention `negSucc` as little as possible. :-(

File: src/Init/Data/Int/Bitwise/Lemmas.lean (hunk 1 above)
Comment (semorrison) [reply src/Init/Data/Int/Bitwise/Lemmas.lean]: I think as long as you copied across the authors field (✅ ), you're fine. It wouldn't hurt to have a module doc:

```
/-!
# Lemmas about bitwise operations on `Int`

Some of these lemmas have been adapted from existing material in Mathlib.
-/

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 21]
```diff
@@ -0,0 +1,59 @@
...
+    rw [toNat_sub_toNat_eq_negSucc_ofLt (by omega)]
+    rw [shiftRight_negSucc]
+
+theorem shiftRight_shiftRight (i : Int) (m n : Nat) :
+    i >>> m >>> n = i >>> (m + n) := by
+  rcases i with i | i <;>
+    simp [natCast_shiftRight, Int.shiftRight_negSucc, Nat.shiftRight_add]
+
+theorem shiftRight_eq_div_pow (m : Int) (n : Nat) :
+    m >>> n = m / ((((2 : Nat) ^ n) : Nat) : Int) := by
```
Comment (semorrison) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:41]:
```suggestion
    m >>> n = m / ((2 ^ n) : Nat) := by
```
identical meaning.

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 22]
```diff
@@ -0,0 +1,59 @@
...
+    simp only [Int.ofNat_eq_coe, shiftRight_eq, Int.shiftRight, Nat.shiftRight_eq_div_pow,
+      ofNat_ediv, natCast_pow, Nat.cast_ofNat_Int]
+  case negSucc m =>
+    rw [Int.shiftRight_negSucc]
+    rw [negSucc_ediv]
+    rw [Nat.shiftRight_eq_div_pow]
+    · norm_cast
+    · norm_cast
+      apply Nat.pow_pos
+      omega
```
Comment (semorrison) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:53]: How about just
```
  simp only [shiftRight_eq, Int.shiftRight, Nat.shiftRight_eq_div_pow]
  split
  · simp
  · rw [negSucc_ediv _ (by norm_cast; exact Nat.pow_pos (Nat.zero_lt_two))]
    rfl
```

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 23]
```diff
@@ -0,0 +1,59 @@
...
+  the result of the subtraction is negative. -/
+theorem toNat_sub_toNat_shiftRight_eq_ofLt {m n i: Nat} (h : m < n) :
+  ((m : Int) - (n : Int)) >>> i = -[((n - 1 - m) >>> i) +1] := by
+    rw [toNat_sub_toNat_eq_negSucc_ofLt (by omega)]
+    rw [shiftRight_negSucc]
+
+theorem shiftRight_shiftRight (i : Int) (m n : Nat) :
+    i >>> m >>> n = i >>> (m + n) := by
+  rcases i with i | i <;>
+    simp [natCast_shiftRight, Int.shiftRight_negSucc, Nat.shiftRight_add]
```
Comment (semorrison) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:38]:
```suggestion
  simp only [shiftRight_eq, Int.shiftRight]
  cases i <;> simp [Nat.shiftRight_add]
```
Then you don't need `shiftRight_negSucc` at all.

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 24]
```diff
@@ -0,0 +1,59 @@
...
+  omega
+
+/-- shiftRight of a subtraction is evaluated when
+  the result of the subtraction is negative. -/
+theorem toNat_sub_toNat_shiftRight_eq_ofLt {m n i: Nat} (h : m < n) :
+  ((m : Int) - (n : Int)) >>> i = -[((n - 1 - m) >>> i) +1] := by
+    rw [toNat_sub_toNat_eq_negSucc_ofLt (by omega)]
+    rw [shiftRight_negSucc]
+
+theorem shiftRight_shiftRight (i : Int) (m n : Nat) :
```
Comment (semorrison) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:35]: This equality should be flipped and renamed to `shiftRight_add` for consistency with `Nat`.

Comment (bollu) [reply src/Init/Data/Int/Bitwise/Lemmas.lean:35]: This breaks consistency with [`Nat.shiftLeft_shiftLeft`](https://github.com/leanprover/lean4/blob/873ef2d894af80d8fc672e35f7e28bae314a1f6f/src/Init/Data/Nat/Lemmas.lean#L788-L790), however.

File: src/Init/Data/Int/Bitwise/Lemmas.lean (hunk 22 above)
Comment (bollu) [reply src/Init/Data/Int/Bitwise/Lemmas.lean:53]: Nice, I've added this cleanup.

File: src/Init/Data/Int/Bitwise/Lemmas.lean (hunk 20 above)
Comment (bollu) [reply src/Init/Data/Int/Bitwise/Lemmas.lean:19]: @semorrison I must admit, I don't understand the reason for shying away from writing this `simp` lemma here: It's building the basic theory of `>>>`, and this is taken [straight from mathlib](https://github.com/leanprover-community/mathlib4/blob/c9ee63a2a9d4eeb41607c930473a224b081dc2c9/Mathlib/Data/Int/Bitwise.lean#L490-L490)

Comment (bollu) [reply src/Init/Data/Int/Bitwise/Lemmas.lean:19]: I've fixed the name.

File: src/Init/Data/Int/Bitwise/Lemmas.lean (hunk 19 above)
Comment (bollu) [reply src/Init/Data/Int/Bitwise/Lemmas.lean:14]: Done. Switched to `natCast_shiftRight`

**Comment by bollu** [comment]
awaiting-review

File: src/Init/Data/Int/Bitwise/Lemmas.lean (hunk 24 above)
Comment (semorrison) [reply src/Init/Data/Int/Bitwise/Lemmas.lean:34]: Sigh. :-) I think the flipped version is slightly more likely to be useful? Since we're going to be inconsistent either way, my slight preference is
* flip this one
* express my everlasting gratitude when you make a separate PR renaming Nat.shiftLeft_shiftLeft (with a deprecation warning).

But it's also fine to just leave as is.

File: src/Init/Data/Int/Bitwise/Lemmas.lean (hunk 20 above)
Comment (semorrison) [reply src/Init/Data/Int/Bitwise/Lemmas.lean]: I just don't want people using `Int.negSucc` when they don't need to, because it's a slippery slope of ever increasing API surface area. It's meant to be an internal implementation detail of `Int`. What if we decided to change the definition of `Int` to pairs of `Nat`s modulo `(a,b) ~ (a+c, b+c)`? (Obviously we won't...)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 25]
```diff
@@ -641,6 +645,78 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+/-- Equation theorem for 'Int.mod' -/
+private theorem Int.mod_negSucc_eq (m : Nat) (n : Int) :
+  (Int.negSucc m) % n = Int.subNatNat (Int.natAbs n) (Nat.succ (m % Int.natAbs n)) := rfl
+
+/-- if the msb is false, the arithmetic shift right equals logical shift right -/
+theorem sshiftRight_eq_of_msb_false {x : BitVec w} {s : Nat} (h : x.msb = false) :
+    (x.sshiftRight s) = x >>> s := by
+  apply BitVec.eq_of_toNat_eq
+  rw [BitVec.sshiftRight_eq]
+  rw [BitVec.toInt_eq_toNat_cond]
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:664]: Combine these.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 26]
```diff
@@ -641,6 +645,78 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+  have hxbound : 2 * x.toNat < 2 ^ w := (BitVec.msb_eq_false_iff_two_mul_lt x).mp h
+  simp only [hxbound, ↓reduceIte, Int.natCast_shiftRight, Int.ofNat_eq_coe, ofInt_natCast,
+    toNat_ofNat, toNat_ushiftRight]
+  rw [Nat.mod_eq_of_lt]
+  rw [Nat.shiftRight_eq_div_pow]
+  suffices x.toNat / 2^s ≤ x.toNat by
+    apply Nat.lt_of_le_of_lt this x.isLt
+  apply Nat.div_le_self
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:672]: Can you introduce a `have` statement, so the logical slow at the first `rw` is clear? (It is not immediately clear without inspecting the goal view that the first rw closes the goal and replaces it with a side condition.)

Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:672]:
```suggestion
    exact Nat.lt_of_le_of_lt (Nat.div_le_self _ _) x.isLt
```
The `suffices` seems an unnecessary detour here.

File: src/Init/Data/Int/Bitwise/Lemmas.lean [hunk 27]
```diff
@@ -0,0 +1,51 @@
...
+  rw [Int.negSucc_eq] -- TODO: consider adding this to omega cleanup set.
+  omega
+
+/-- shiftRight of a subtraction is evaluated when
+  the result of the subtraction is negative. -/
+theorem toNat_sub_toNat_shiftRight_eq_ofLt {m n i: Nat} (h : m < n) :
+  ((m : Int) - (n : Int)) >>> i = -[((n - 1 - m) >>> i) +1] := by
+    rw [toNat_sub_toNat_eq_negSucc_ofLt (by omega)]
+    rw [negSucc_shiftRight]
+
```
Comment (semorrison) [inline src/Init/Data/Int/Bitwise/Lemmas.lean:33]: These are no longer used, right?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 28]
```diff
@@ -641,6 +645,78 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+  · rw [BitVec.sshiftRight_eq]
+    rw [BitVec.toInt_eq_toNat_cond]
+    have hxbound : (2 * x.toNat ≥ 2 ^ (w + 1)) := (BitVec.msb_eq_true_iff_two_mul_ge x).mp h
+    have hxbound' : ¬ (2 * x.toNat < 2 ^ (w + 1)) := by omega
+    simp only [hxbound', ↓reduceIte, toNat_ofInt, toNat_not, toNat_ushiftRight]
+    rw [← Int.subNatNat_eq_coe]
+    rw [Int.subNatNat_of_lt (by omega)]
+    simp only [Nat.pred_eq_sub_one, Int.negSucc_shiftRight]
+    rw [Int.mod_negSucc_eq]
+    simp [Int.natAbs_ofNat, Nat.succ_eq_add_one]
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:692]: This should be a `simp only`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 29]
```diff
@@ -641,6 +645,78 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+    rw [Int.subNatNat_of_le (by omega)]
+    simp only [Int.toNat_ofNat]
+    rw [Nat.mod_eq_of_lt]
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:695]: In fact, these can all be `rw`, and combined into a single `rw` statement.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 30]
```diff
@@ -641,6 +645,78 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+  and the outer negation ensures that the high bits are '1'. -/
+theorem sshiftRight_eq_of_msb_true {x : BitVec w} {s : Nat} (h : x.msb = true) :
+    (x.sshiftRight s) = ~~~((~~~x) >>> s) := by
+  apply BitVec.eq_of_toNat_eq
+  rcases w with rfl | w
+  · simp
+  · rw [BitVec.sshiftRight_eq]
+    rw [BitVec.toInt_eq_toNat_cond]
+    have hxbound : (2 * x.toNat ≥ 2 ^ (w + 1)) := (BitVec.msb_eq_true_iff_two_mul_ge x).mp h
+    have hxbound' : ¬ (2 * x.toNat < 2 ^ (w + 1)) := by omega
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:686]:
```suggestion
    have hxbound : (2 * x.toNat ≥ 2 ^ (w + 1)) := (BitVec.msb_eq_true_iff_two_mul_ge x).mp h
    replace hxbound : ¬ (2 * x.toNat < 2 ^ (w + 1)) := by omega
```
is perhaps slightly clearer, so it's obvious that you no longer need the first bound.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 31]
```diff
@@ -641,6 +645,78 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+    rw [Int.subNatNat_of_le (by omega)]
+    simp only [Int.toNat_ofNat]
+    rw [Nat.mod_eq_of_lt]
+    · rw [Nat.sub_right_comm]
+      omega
+    · rw [Nat.shiftRight_eq_div_pow]
+      apply Nat.lt_of_le_of_lt (Nat.div_le_self _ _) (by omega)
+
+theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
+  getLsb (x.sshiftRight s) i =  (!decide (w ≤ i) && if s + i < w then x.getLsb (s + i) else x.msb) := by
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:702]:
```suggestion
  getLsb (x.sshiftRight s) i = (!decide (w ≤ i) && if s + i < w then x.getLsb (s + i) else x.msb) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 32]
```diff
@@ -641,6 +645,78 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+  rcases hmsb:x.msb with rfl | rfl
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:703]:
```suggestion
  rcases hmsb : x.msb with rfl | rfl
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 33]
```diff
@@ -641,6 +645,78 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+    · simp only [hi, decide_False, Bool.not_false, Bool.true_and, Bool.iff_and_self,
+      decide_eq_true_eq]
+      intros hlsb
+      apply BitVec.lt_of_getLsb _ _ hlsb
+  · by_cases hi : i ≥ w
+    · simp [hi]
+    · simp only [sshiftRight_eq_of_msb_true hmsb, getLsb_not, getLsb_ushiftRight, Bool.not_and,
+      Bool.not_not, hi, decide_False, Bool.not_false, Bool.if_true_right, Bool.true_and,
+      Bool.and_iff_right_iff_imp, Bool.or_eq_true, Bool.not_eq_true', decide_eq_false_iff_not,
+      Nat.not_lt, decide_eq_true_eq] <;> omega
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:718]: Please don't use `<;>` unless there are actually multiple goals. This should just be `omega` on a separate line.

Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:718]: Indent the line wrapped `simp only` lemmas.

Comment (semorrison) [reply src/Init/Data/BitVec/Lemmas.lean:718]: (and elsewhere)

File: src/Init/Data/BitVec/Lemmas.lean (hunk 31 above)
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:702]:
```suggestion
    getLsb (x.sshiftRight s) i =  (!decide (w ≤ i) && if s + i < w then x.getLsb (s + i) else x.msb) := by
```

Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:702]: Let's limit the line length to 100.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (semorrison) [reply src/Init/Data/BitVec/Lemmas.lean:657]: No, I think you need it. I've finally convinced myself that this proof is actually hard. :-)

Can you move this theorem back up to some `Int` file?

**Comment by semorrison** [comment]
Many stylistic comments, but I'm now satisfied that the main proof really requires this much talking about `Int.negSucc`! Hopefully we can merge soon.

**Comment by tobiasgrosser** [comment]
awaiting-author

File: src/Init/Data/Int/Bitwise/Lemmas.lean (hunk 24 above)
Comment (bollu) [reply src/Init/Data/Int/Bitwise/Lemmas.lean]: Renamed and flipped equality to `Int.shiftRight_add`, will address the rest in a follow up commit.

File: src/Init/Data/Int/Bitwise/Lemmas.lean (hunk 27 above)
Comment (bollu) [reply src/Init/Data/Int/Bitwise/Lemmas.lean]: Deleted dead lemmas.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 26 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:672]: Done.

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:672]: Done.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 25 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:664]: Done.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 30 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:683]: Done.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 29 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:692]: Done.

**Comment by bollu** [comment]
awaiting-review
